US07473705B2
150 mg (0.3 mmol) of 3-{3-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-propan-1-ol and 73 mg (0.38 mmol) of 3-(3-hydroxy-phenyl)-propionic acid ethyl ester (CAS 34708-60-6) in 4 mL of THF were treated with 117 mg (0.44 mmol) of triphenylphosphine. The solution was cooled to 0° C. and treated with 88 μL (0.44 mmol) of DIAD. The mixture was stirred at room temperature overnight, the solvent was evaporated and the crude mixture was purified by column chromatography on silica gel with a gradient of EtOAc/n-heptane 1:5 to 1:3 to yield 110 mg (52%) of 3-[3-(3-{3-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-propoxy)-phenyl]-propionic acid ethyl ester as a colorless liquid, MS: 614 (M)+.

reactant | 3-{3-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-propan-1-ol | 0.3 mmol, 150 mg | FC(C(C(F)(F)F)(OCC1=CC=C(C=C1)OC)C=1C=C(OCCCO)C=CC1)(F)F | C20H20F6O4
reactant | 3-(3-hydroxy-phenyl)-propionic acid ethyl ester | 0.38 mmol, 73 mg | C(C)OC(CCC1=CC(=CC=C1)O)=O | C11H14O3
reactant | triphenylphosphine | 0.44 mmol, 117 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.44 mmol, 88 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-[3-(3-{3-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-propoxy)-phenyl]-propionic acid ethyl ester | 110 mg, 52% | C(C)OC(CCC1=CC(=CC=C1)OCCCOC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC)=O | C31H32F6O6
